US05939405
Step A: 3-[[5-Chloro-2-[[(chloromethyl)carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one
Neat chloroacetyl chloride (0.45 g, 5.6 mmol) was added dropwise to a stirred cold (0° C.) solution of 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one (1.8 g, 4.9 mmol) and anhydrous pyridine (0.45 g, 5.5 mmol) in anhydrous dichloromethane (30 mL). The resulting mixture was allowed to warm to room temperature and stirred for 4 hr. The dichloromethane was rotary evaporated and the residue was partitioned between diethylether-ethyl acetate and dilute HCl. The organic layer was washed with saturated sodium bicarbonate, water and brine and then dried (MgSO4). Evaporation of the solvents followed by recrystallization of the residue from acetone/hexanes afforded the title compound as off-white crystals (2.2 g, 98%). MS m/e 447 (MH+).

reactant | chloroacetyl chloride | 5.6 mmol, 0.45 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 3-[(5-chloro-2-hydroxyphenyl)methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 4.9 mmol, 1.8 g | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)O | C16H10ClF3N2O3
reactant | pyridine | 5.5 mmol, 0.45 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 3-[[5-Chloro-2-[[(chloromethyl)carbonyl]oxy]phenyl]methyl]-5-[4-(trifluoromethyl)phenyl]-1,3,4-oxadiazol-2(3H)-one | 2.2 g, 98% | ClC=1C=CC(=C(C1)CN1C(OC(=N1)C1=CC=C(C=C1)C(F)(F)F)=O)OC(=O)CCl | C18H11Cl2F3N2O4
